US07166613B2
2-(2′-Hydroxyethyl)-3-methoxy-N-tert-butoxycarbonyl-aniline
A stirred solution of N-tert-butoxycarbonyl-anisidine (431 g, 1.93 mol) in ether (2 L) under an argon atmosphere was cooled to −20° C. A solution of tert-butyllithium (1.7 M, hexanes, 2.5 L, 4.25 mol) was added dropwise and the reaction was stirred for 3 h at −20° C. The reaction was cooled to −50° C. and ethylene oxide (136 g, 3.09 mol) was added dropwise. The reaction was warmed to 0° C. over 1 h and then stirred at room temperature for 1 h. The reaction was poured onto saturated aqueous ammonium chloride solution (2.5 L) and the mixture was extracted with ether (3×2.5 L). The organic extracts were combined and concentrated in vacuo to afford a pale yellow oil which was purified by column chromatography [SiO2; heptane-ethyl acetate (5:1)] to afford the title compound (176 g, 37%) as a yellow crystalline solid; NMR (400 MHz, CDCl3) δH 1.51 (9H, br s), 2.91 (2H, t, J 6.0 Hz), 3.79 (3H, s), 3.87 (2H, q, J 5.0 Hz, 10.5 Hz), 6.64 (1H, d, J 8.0 Hz), 7.18 (1H, t, J 9.0 Hz), 7.38 (1H, m), 7.55 (1H, br s); IR νmax (Nujol)/cm−1 3407, 3212, 2955, 2854, 1721, 1592, 1508, 1476, 1438, 1370, 1267, 1234, 1162, 1047 and 773.

reactant | N-tert-butoxycarbonyl-anisidine | 1.93 mol, 431 g | C(C)(C)(C)OC(=O)NC1=CC=C(OC)C=C1 | C12H17NO3
reactant | tert-butyllithium | 4.25 mol, 1.7 M, 2.5 L | C(C)(C)(C)[Li]
reactant | ethylene oxide | 3.09 mol, 136 g | C1CO1 | C2H4O
reactant | ammonium chloride | 2.5 L | [Cl-].[NH4+]
solvent | ether | 2 L | CCOCC | C4H10O
product | 2-(2′-Hydroxyethyl)-3-methoxy-N-tert-butoxycarbonyl-aniline | 176 g, 37% | OCCC1=C(NC(=O)OC(C)(C)C)C=CC=C1OC | C14H21NO4
